US07462639B2
N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-2-phenyl-butyramide
N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-2-phenyl-butyramide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and 2-phenylbutyryl chloride (148 μl, 0.88 mmol). The title compound was obtained as yellow powder (69 mg, 19%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | 2-phenylbutyryl chloride | 0.88 mmol, 148 μl | C1(=CC=CC=C1)C(C(=O)Cl)CC | C10H11ClO
product | N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-2-phenyl-butyramide | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(C(CC)C3=CC=CC=C3)=O)(C)C)=O | C26H28N6O2
